US05159081
To a solution of 25 gm (220 mMol) glutaric anhydride in dichloromethane (250 ml) was added a solution of 26.4 ml (242 mMol) benzylamine in dichloromethane (50 ml) dropwise. The reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was then poured into diethyl ether (500 ml) and the resulting solid was filtered. The filter cake was washed with diethyl ether, dried under vacuum and then recrystallized from ethyl acetate to give 24.8 gm (51%) 5-oxo-5-(phenylmethylamino)pentanoic acid as a crystalline solid.

reactant | glutaric anhydride | 220 mMol, 25 gm | C1(CCCC(=O)O1)=O | C5H6O3
reactant | benzylamine | 242 mMol, 26.4 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-oxo-5-(phenylmethylamino)pentanoic acid | 24.8 gm, 51% | O=C(CCCC(=O)O)NCC1=CC=CC=C1 | C12H15NO3
